US07772226B2
(d) t-Butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-1-(2-phenylethyl)-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate
A mixture consisting of 290 mg of t-butyl 4-[7-(2-butynyl)-2,6-dioxo-1-(2-phenylethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylate and 4 ml of phosphorus oxychloride was heated and stirred in an oil bath at 120° C. for 8 hours. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in 5 ml of tetrahydrofuran. This solution was added dropwise to a mixture consisting of 250 mg of di-t-butyl dicarbonate, 10 ml of a saturated sodium bicarbonate solution, and 10 ml of tetrahydrofuran while the mixture was being stirred and cooled with ice. The mixture was incubated at room temperature for 4 hours, and then extracted with ethyl acetate. The organic layer was washed with water then with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated under reduce pressure. The residue was purified by silica gel column chromatography using 30 to 50% ethyl acetate/hexane. Then, the material was further purified by reverse-phase column chromatography using 50 to 100% methanol/water to give 60 mg of the title compound.

reactant | t-butyl 4-[7-(2-butynyl)-2,6-dioxo-1-(2-phenylethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylate | 290 mg | C(C#CC)N1C(=NC=2NC(N(C(C12)=O)CCC1=CC=CC=C1)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C26H32N6O4
reactant | phosphorus oxychloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | t-Butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-1-(2-phenylethyl)-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 60 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)CCC1=CC=CC=C1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C26H31ClN6O3
